US05688807
4,6-Dimethyltryptamine hydrochloride was prepared (1.06 g) as described for 5-methyl-7-bromotryptamine hydrochloride in Example 4, except using 3,5-dimethylphenylhydrazine hydrochloride (7.65 g) as starting material.

reactant | 5-methyl-7-bromotryptamine hydrochloride | Cl.CC1=CC(=C2NC=C(CCN)C2=C1)Br
reactant | 3,5-dimethylphenylhydrazine hydrochloride | 7.65 g | Cl.CC=1C=C(C=C(C1)C)NN
product | 4,6-Dimethyltryptamine hydrochloride | Cl.CC=1C=C(C=C2NC=C(CCN)C12)C | InChI=1S/C12H16N2.ClH/c1-8-5-9(2)12-10(3-4-13)7-14-11(12)6-8;/h5-7,14H,3-4,13H2,1-2H3;1H
